US07144896B2
Step 1: 4-Fluoro-3-hydroxymethyl benzene boronic acid
To solution of (5-bromo-2-fluoro-phenyl)-methanol (1.0 eq) in THF (0.1M) at −78° C. was added dropwise n-BuLi (2.5M in Hex; 2.2 eq). The resulting mixture was stirred at −78° C. for 30 min then tri-isopropoxy borane (2.2 eq) was added. The final mixture was stirred 15 min at −78° C. then allowed to warm slowly to room temperature and stirred an extra hour. The reaction was quenched with HCl (10%) and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The residue was dissolved in EtOAc, water (few drops) was added then hexane until a precipitate formed. After 12 h of stirring, the desired compound was isolated by filtration as a white solid.

reactant | (5-bromo-2-fluoro-phenyl)-methanol | 1.0 eq | BrC=1C=CC(=C(C1)CO)F | C7H6BrFO
reactant | n-BuLi | 2.5M, 2.2 eq | [Li]CCCC
reactant | tri-isopropoxy borane | 2.2 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 0.1M | C1CCOC1 | C4H8O
product | 4-Fluoro-3-hydroxymethyl benzene boronic acid | FC1=C(C=C(C=C1)B(O)O)CO | C7H8BFO3
